US07906517B2
Ethyl 4-(2′-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4′-trifluoromethyl-biphenyl-2-yloxy)-butyrate (157 mg) is dissolved in ethanol (4 ml), and thereto is added 1N-aqueous sodium hydroxide solution (1 ml), and the mixture is stirred at room temperature for 2 hours. To the reaction solution are added a 1N-hydrochloric acid and ethyl acetate and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→9:1) to give 4-(2′-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4′-trifluoromethyl-biphenyl-2-yloxy)-butyric acid (146 mg). The resulting carboxylic acid is dissolved in ethanol (1 ml), and thereto is added 1N-aqueous sodium hydroxide solution (197 μl) and the reaction solution is concentrated under reduced pressure to give 4-(2′-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4′-trifluoromethyl-biphenyl-2-yloxy)-butyric acid sodium salt (146 mg). MS (m/z): 741 [M−Na]−

reactant | Ethyl 4-(2′-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4′-trifluoromethyl-biphenyl-2-yloxy)-butyrate | 157 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC=C2)OCCCC(=O)OCC)C=C(C1)C(F)(F)F)(F)F | C37H35F9N4O4
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-(2′-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4′-trifluoromethyl-biphenyl-2-yloxy)-butyric acid | 146 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC=C2)OCCCC(=O)O)C=C(C1)C(F)(F)F)(F)F | C35H31F9N4O4
